US04983209
In 0.7 ml of acetic acid, 245 mg (0.6 mmol) of oxamide 4-chloro-3-[(2,2,-3,3,4,4,4-heptafluorobutoxy)methyl]phenylhydrazone was dissolved and nitrogen was saturated. The solution was added with 76 mg (0.72 mmol) of benzaldehyde under a nitrogen atmosphere and stirred at room temperature for 16 hours. Then water was added to the solution and the formed crystals were filtered out, washed with water and dried in vacuo. The resulting product was recrystallized from ethyl acetate/n-hexane with nitrogen saturated to obtain 257 mg (86.5% yield) of 1-[4-chloro-3-](2,2,3,3,4,4,4-heptafluorobutoxy)methyl]phenyl]-4,5-dihydro-5-phenyl-1H-1,2,4-triazole-3-carboxamide (m.p. 157°-159° C.).

reactant | oxamide 4-chloro-3-[(2,2,-3,3,4,4,4-heptafluorobutoxy)methyl]phenylhydrazone | 0.6 mmol, 245 mg | ClC1=C(C=C(C=C1)NN=C(N)C(=O)N)COCC(C(C(F)(F)F)(F)F)(F)F | C13H12ClF7N4O2
reactant | benzaldehyde | 0.72 mmol, 76 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | 4,5-dihydro-5-phenyl-1H-1,2,4-triazole-3-carboxamide | C1(=CC=CC=C1)C1NC(=NN1)C(=O)N | C9H10N4O
